US05807883
To a stirred suspension of 2.00 g of 3-amino-1-(4-fluorophenyl)-2,3-dihydro-6-methoxy-1H-indol-2-one hydrochloride, 1.33 g of sodium isoquinoline-3-carboxylate and 0.88 g of 1-hydroxybenzotriazole in 10 ml of anhydrous dimethylformamide was added 1.49 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride under ice cooling. The whole was stirred for 30 minutes. The reaction mixture was extracted by pouring a mixed solvent of ethyl acetate-tetrahydrofuran (2:1). The extract was washed with water, dried and evaporated. The residue was triturated with a mixed solvent of ethyl acetate and tetrahydrofuran to afford 2.60 g of N-[1(4-fluorophenyl)-2,3-dihydro-6-methoxy-2-oxo-1H-indol-3-yl]-3-isoquinolinecarboxamide as a powder. Melting point: 219° to 220° C.

reactant | 3-amino-1-(4-fluorophenyl)-2,3-dihydro-6-methoxy-1H-indol-2-one hydrochloride | 2.00 g | Cl.NC1C(N(C2=CC(=CC=C12)OC)C1=CC=C(C=C1)F)=O
reactant | sodium isoquinoline-3-carboxylate | 1.33 g | C1=NC(=CC2=CC=CC=C12)C(=O)[O-].[Na+]
reactant | 1-hydroxybenzotriazole | 0.88 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.49 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[1(4-fluorophenyl)-2,3-dihydro-6-methoxy-2-oxo-1H-indol-3-yl]-3-isoquinolinecarboxamide | 2.60 g | FC1=CC=C(C=C1)N1C(C(C2=CC=C(C=C12)OC)NC(=O)C=1N=CC2=CC=CC=C2C1)=O | C25H18FN3O3
